US04124704
Using the method described in Example 17, equimolar amounts of 2-hydroxy-4-methoxytoluene and α-bromo-2-fluoroacetophenone are refluxed in benzene in the presence of potassium carbonate to provide 2-fluoro-α-(2-methyl-5-methoxyphenoxy)acetophenone. Recrystallization from cyclohexane provides a tan solid, m.p. 57°-58° C.

reactant | 2-hydroxy-4-methoxytoluene | OC1=C(C=CC(=C1)OC)C | C8H10O2
reactant | α-bromo-2-fluoroacetophenone | BrC(C(=O)C1=CC=CC=C1)F | C8H6BrFO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-fluoro-α-(2-methyl-5-methoxyphenoxy)acetophenone | FC(C(=O)C1=CC=CC=C1)OC1=C(C=CC(=C1)OC)C | C16H15FO3
